US07674789B2
3-(8-(2,6-difluorophenyl)-2-{[2-(dimethylamino)ethyl]amino}-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl)-N-(2,2-dimethylpropyl)-4-methylbenzamide
To the solution of 3-(8-(2,6-difluorophenyl)-2-{[2-(dimethylamino)ethyl]-amino}-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl)-4-methylbenzoic acid (30 mg, 0.062 mmol) in dichloromethane (2.0 mL) and DMF (0.5 mL) were added (2,2-dimethylpropyl)amine (10.9 μL, 0.093 mmol), HBTU (25.6 mg, 0.068 mmol) and triethylamine (35.0 μL, 0.25 mmol). The reaction mixture was stirred at room temperature for 16 hours then was applied to HPLC to afford the titled compound 14.9 mg (44%). LC-MS m/z 552 (M+H)+; 1H-NMR (MeOD) 0.99 (s, 9H), 2.33 (s, 3H), 2.76 (s, 6H), 3.15 (s, 2H), 3.24 (s, 2H), 3.54 (m, 2H), 4.16 (m, 2H), 7.18 (m, 2H), 7.51 (m, 2H), 7.72 (s, 1H), 7.89 (m, 1H).

reactant | 3-(8-(2,6-difluorophenyl)-2-{[2-(dimethylamino)ethyl]-amino}-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl)-4-methylbenzoic acid | 0.062 mmol, 30 mg | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)O)C=CC2C)NCCN(C)C)=O | C24H24F2N6O3
reactant | (2,2-dimethylpropyl)amine | 0.093 mmol, 10.9 μL | CC(CN)(C)C | C5H13N
reactant | HBTU | 0.068 mmol, 25.6 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.25 mmol, 35.0 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 3-(8-(2,6-difluorophenyl)-2-{[2-(dimethylamino)ethyl]amino}-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl)-N-(2,2-dimethylpropyl)-4-methylbenzamide | 14.9 mg, 44% | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NCC(C)(C)C)C=CC2C)NCCN(C)C)=O | C29H35F2N7O2
